* /home/sharmir08/esim-2.3/library/subcircuitlibrary/sky130_sharmi_s_h/sky130_sharmi_s_h.cir

.include avsd_opamp.sub
x1 v++ v-- analog_input net-_sc1-pad1_ net-_sc1-pad1_ gnd avsd_opamp
x2 v++ v-- capacitor sampled_output sampled_output gnd avsd_opamp
v1 v++ gnd  dc 10
v2 v-- gnd  dc 10
xsc1 net-_sc1-pad1_ sampling_frequency capacitor capacitor sky130_fd_pr__nfet_01v8_lvt 
xsc2 capacitor gnd sky130_fd_pr__cap_mim_m3_1 
* u1  analog_input plot_v1
* u5  sampled_output plot_v1
* u4  capacitor plot_v1
* u3  sampling_frequency plot_v1
* u2  analog_input sampling_frequency sampled_output port
.tran 1e-03 5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(analog_input)
plot v(sampled_output)
plot v(capacitor)
plot v(sampling_frequency)
.endc
.end
