* /home/sharmir08/esim-2.3/library/subcircuitlibrary/s_h_adc/s_h_adc.cir

.include avsd_opamp.sub
x2 v++ v-- net-_u1-pad3_ capacitor net-_u1-pad3_ gnd avsd_opamp
v1 v++ gnd  dc 0
v2 v-- gnd  dc 0
xsc4 net-_sc3-pad1_ net-_sc4-pad2_ capacitor gnd sky130_fd_pr__nfet_01v8_lvt 
xsc3 net-_sc3-pad1_ net-_sc1-pad1_ capacitor v++ sky130_fd_pr__pfet_01v8_hvt 
xsc2 net-_sc1-pad1_ sampling_frequency gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc1 net-_sc1-pad1_ sampling_frequency v++ v++ sky130_fd_pr__pfet_01v8_hvt 
* u2  capacitor plot_v1
xsc5 capacitor gnd sky130_fd_pr__cap_mim_m3_1 
x1 v++ v-- net-_sc3-pad1_ net-_u1-pad1_ net-_sc3-pad1_ gnd avsd_opamp
* u1  net-_u1-pad1_ net-_sc4-pad2_ net-_u1-pad3_ port
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(capacitor)
.endc
.end
