* /home/sharmir08/desktop/digital_modulation/sky130_sharmi_s_h_ckt/sky130_sharmi_s_h_ckt.cir

.include avsd_opamp.sub
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__linear.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__pnp.model.spice"
.lib "/usr/share/local/sky130_fd_pr/models/sky130.lib.spice" tt
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__inductors.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__r+c.model.spice"
.include "/usr/share/local/sky130_fd_pr/models/sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
x2 v++ v-- sampled_output capacitor sampled_output gnd avsd_opamp
v3  analog_input gnd sine(0 2m 5 0 0)
v4  sampling_frequency gnd pulse(0 2m 0.1u 0.1u 0.1u 2m 4m)
v1 v++ gnd  dc 2
v2 v-- gnd  dc -2
xsc1 net-_sc1-pad1_ sampling_frequency capacitor gnd sky130_fd_pr__nfet_01v8_lvt 
* u1  analog_input plot_v1
* s c m o d e
* u4  sampling_frequency plot_v1
* u7  sampled_output plot_v1
xsc7 net-_sc1-pad1_ net-_sc5-pad1_ capacitor v++ sky130_fd_pr__pfet_01v8_hvt 
xsc6 net-_sc5-pad1_ sampling_frequency gnd gnd sky130_fd_pr__nfet_01v8_lvt 
xsc5 net-_sc5-pad1_ sampling_frequency v++ v++ sky130_fd_pr__pfet_01v8_hvt 
* u2  capacitor plot_v1
xsc2 capacitor gnd sky130_fd_pr__cap_mim_m3_1 
x1 v++ v-- net-_sc1-pad1_ analog_input net-_sc1-pad1_ gnd avsd_opamp
.tran 0.5e-03 200e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(analog_input)
plot v(sampling_frequency)
plot v(sampled_output)
plot v(capacitor)
.endc
.end
